US07417157B2
10.0 g (27.0 mmol) of ethyltriphenylphosphonium bromide are initially introduced in 100 ml of THF, and 2.98 g (26.0 mmol) of potassium tert-butoxide in 40 ml of THF are added at −5° C. After 1 h at this temperature, 6.50 g (24.6 mmol) of (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-carbaldehyde as a solution in 60 ml of THF are added dropwise, and the batch is stirred at room temperature for 2 h. The reaction solution is hydrolysed using water and acidified using 2 N HCl. The mixture is extracted with MTBE, and the combined organic phases are dried using sodium sulfate. The crude product remaining after removal of the solvents is filtered adsorptively (SiO2, toluene), and the filtrate is concentrated to dryness. Recrystallisation of the residue from methanol gives (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-3-propenyl)-1,2,3,4,4a,9b-hexahydrodibenzofuran as E/Z isomer mixture.

reactant | potassium tert-butoxide | 26.0 mmol, 2.98 g | CC(C)([O-])C.[K+]
reactant | 7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-carbaldehyde | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)C=O)C=C1)F | C15H17FO3
reactant | water | O | H2O
reactant | HCl | 2 N | Cl | ClH
catalyst | ethyltriphenylphosphonium bromide | 27.0 mmol, 10.0 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1,2,3,4,4a,9b-hexahydrodibenzofuran | C1CCCC2OC3=C(C21)C=CC=C3 | C12H14O
